US09126931B2
3-Cyano-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-4-carboxylic acid amide
Under nitrogen atmosphere, 4-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound U8-1, 30.0 mg, 60.56 mmol), palladium acetate (1.36 mg, 6.056 mmol), 1,1′-bis(diphenylphosphino)ferrocene (3.36 mg, 6.056 mmol), imidazole (4.12 mg, 60.56 mmol) and tert-potassium butoxy (10.2 mg, 90.84 mmol) were dissolved in formamide (3.00 mL) and the mixture was stirred at 180° C. for 5 min under irradiation with microwave. The reaction solution was poured into water, extracted with ethyl acetate, washed with water and saturated brine, dried over sodium sulfate, and then filtered. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (methanol/dichloromethane) to obtain the target compound (7.6 mg, 27%).

reactant | 4-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 60.56 mmol, 30.0 mg | BrC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O)C#N | C25H23BrN2O4
reactant | imidazole | 60.56 mmol, 4.12 mg | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | formamide | 3.00 mL | C(=O)N | CH3NO
catalyst | palladium acetate | 6.056 mmol, 1.36 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 6.056 mmol, 3.36 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-Cyano-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-4-carboxylic acid amide | 7.6 mg, 27% | C(#N)C1=CC=C2C=3C(C4=C(C(C3NC2=C1C(=O)N)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C26H25N3O5
